### ISSUE TITLE
`simp` lemma discrimination tree keys are computed with `iota := false`, while `simp` uses `iota := true`

### ISSUE THREAD

**Issue by JovanGerb** [leanprover/lean4#6331]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [ ] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

When computing the discrimination tree keys for a (global) simp lemma, the configuration is set to `iota := false`. However, the default configuration for simp uses `iota := true`. Since #6053, the setting `iota := false` propagates to the function `Lean.Meta.unfoldDefinition?`, which now causes bad discrimination tree keys to be computed when the LHS of a simp lemma contains a match expression.

### Context

This was reported on [Zulip](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/.60simp.60.20got.20weaker.20with.20.60abbrev.60.20after.20update/near/486113918).

### Steps to Reproduce

Consider this minimal example:
```
abbrev Multiseries : List Nat → Type
  | [] => Nat
  | _ :: _ => Int

opaque maxExp (n : Nat) (ns : List Nat) (li : List (Multiseries (n :: ns))) : Nat

@[simp]
axiom bad_simp_lemma (n : Nat) (ns : List Nat) : maxExp n ns [] = 8

theorem same_lemma (n : Nat) (ns : List Nat) : maxExp n ns [] = 8 := by
  simp -- simp made no progress

theorem same_lemma' (n : Nat) (ns : List Nat) : maxExp n ns [] = 8 := by
  simp -iota -- succeeds
``` 

**Expected behavior:**
`simp` should succeed, while `simp -iota` should not succeed.

**Actual behavior:**
`simp` fails, and `simp -iota` succeeds.

### Versions

4.16.0-nightly-2024-12-06

### Additional Information

We can manually force the lemma to have the match expression already unfolded. This gives the correct discrimination tree keys for `simp`:

```
abbrev Multiseries : List Nat → Type
  | [] => Nat
  | _ :: _ => Int

opaque maxExp (n : Nat) (ns : List Nat) (li : List (Multiseries (n :: ns))) : Nat

@[simp]
axiom good_simp_lemma (n : Nat) (ns : List Nat) : maxExp n ns ([] : List Int) = 8

theorem same_lemma (n : Nat) (ns : List Nat) : maxExp n ns [] = 8 := by
  simp -- succeeds

theorem same_lemma' (n : Nat) (ns : List Nat) : maxExp n ns [] = 8 := by
  simp -iota -- simp made no progress
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by vasnesterov** [comment]
Could you please fix this? It's blocking https://github.com/leanprover-community/mathlib4/pull/28291.

**Comment by JovanGerb** [comment]
Could you share what case you are blocked on? It may be possible to work around this issue. (But maybe start a Zulip thread instead of discussing it here)

**Comment by vasnesterov** [comment]
The link you included above (in Context section) is actually a thread started by me where I describe why I need this for the tactic.
